US08053440B2
Phosphorousoxychloride (10 mL, 109.24 mmol) was added drop-wise at 0° C. to a stirred solution of 1-bromo-3,5-dimethoxy benzene (9.1 g, 41.9 mmol) in anhydrous DMF (40 mL). The reaction mixture was stirred at 0° C. for 10 min and then at room temperature for 30 min, then at 100° C. for 4 h. The reaction mixture was cooled to room temperature, poured into ice-cold water and kept overnight. A solid precipitated and was filtered off, washed with water and dried under vacuum to give 2-bromo-4,6-dimethoxy benzaldehyde (8.67 g, 84%) as a yellow solid. To a solution of 4-bromo-2,6-dimethylphenol (6.03 g, 30 mmol) in anhydrous DMF (100 mL) was added sodium hydride (60% suspension in mineral oil, 1.26 g, 31.5 mmol) in small portions under nitrogen at room temperature. The reaction mixture was stirred for 30 min. Benzyl bromide (5.39 g, 31.5 mmol) was added slowly and stirring was continued at room temperature for 2 h. Water (200 mL) was added and the mixture was extracted with hexanes (2×200 mL). The organic layer was washed with water (3×100 mL) and dried over anhydrous Na2SO4. Removal of solvent gave 2-benzyloxy-5-bromo-1,3-dimethylbenzene (9.59 g) as a white solid which was used in the next step without further purification. (Dichloro)bis(triphenylphosphene)palladium (0.239 g, 0.34 mmol) and copper (I) iodide (0.065 g, 0.34 mmol) were added to a solution of 2-benzyloxy-5-bromo-1,3-dimethylbenzene (4.96 g, 17.03 mmol) and trimethylsilyl acetylene (1.84 g, 18.74 mmol) in triethyl amine (70 mL). The reaction mixture was stirred at reflux under nitrogen for 4 h. The mixture was cooled to room temperature. The precipitated ammonium salt was filtered off. The filtrate was concentrated under reduced pressure. The residue was dissolved in hexanes (300 mL) and washed with 2 N aqueous HCl (2×50 mL), water (50 mL), brine (50 mL), and dried over anhydrous Na2SO4. Removal of solvent gave a dark brown liquid which was purified by column chromatography (silica gel 230-400 mesh; 0-5% ethyl acetate in hexanes as eluent) to give (4-benzyloxy-3,5-dimethylphenylethynyl)trimethylsilane (4.0 g, 76% yield) of as pale yellow oil. To a degassed solution of (4-benzyloxy-3,5-dimethylphenylethynyl)trimethylsilane (3.96 g, 12.83 mmol) in anhydrous THF (60 mL) was added tetrabutylammonium fluoride (38.5 mL, 1.0M solution in THF) at 0° C. under nitrogen. Stirring continued at 0° C. for 1 h. A saturated aqueous NH4Cl solution (100 mL) was added. The reaction mixture was extracted with hexanes (300 mL). The organic layer was washed with saturated aqueous NH4Cl solution and dried over anhydrous Na2SO4. The crude compound was purified by column chromatography to give 2-benzyloxy-5-ethynyl-1,3-dimethylbenzene (2.77 g, 91% yield) as a pale yellow oil. To a degassed solution of 2-bromo-4,6-dimethoxy benzaldehyde (2.37 g, 9.68 mmol) in DMF-triethylamine (5:1, 95 mL) were added dichlorobis(triphenylphosphine)-palladium(II) (0.34 g, 0.484 mmol) and copper(I) iodide (0.553 g, 2.90 mmol). The reaction mixture was degassed. To this stirred solution, a degassed solution of 2-benzyloxy-5-ethynyl-1,3-dimethylbenzene (2.86 g, 12.1 mmol) in DMF-triethylamine (5:1, 37 mL) was added at 75° C. under nitrogen over a period of 3 h. After the completion of the addition, stirring continued at 75° C. under nitrogen for 4 h. The reaction mixture was allowed to cool to room temperature. Water (200 mL) was added. The mixture was extracted with ethyl acetate (300 mL). The organic layer was washed with water (3×150 mL) and brine (150 mL), and dried over anhydrous Na2SO4. Removal of solvent gave a black gummy material, which was purified by column chromatography to give 2-(4-benzyloxy-3,5-dimethylphenylethynyl)-4,6-dimethoxybenzaldehyde (2.8 g, 72% yield) of as a brown solid. Tert-Butylamine (20 mL) was added to the above compound (2.63 g, 5.772 mmol). The reaction mixture was stirred under nitrogen for 16 h. Excess tert-butylamine was removed under reduced pressure. The mixture was dried under vacuum to give 3.11 g of imine as a brown solid. To a solution of above imine (3.07 g, 6.738 mmol) in anhydrous DMF (160 mL) was added copper (I) iodide (0.123 g, 0.674 mmol) and the reaction mixture was stirred at 100° C. for 5 h under nitrogen and cooled to room temperature. Water (200 mL) was added and the reaction mixture was extracted with ethyl acetate (2×200 mL). The organic layer was washed with water (2×100 mL), brine (150 mL), and dried over anhydrous Na2SO4. Removal of solvent gave a dark brown gummy material, which was purified by column chromatography (silica gel 230-400 mesh; 0-15% ethyl acetate in hexanes as eluent) to give 3-(4-benzyloxy-3,5-dimethylphenyl)-6,8-dimethoxy isoquinoline (0.689 g, 26%) as a brown solid. To a solution of 3-(4-benzyloxy-3,5-dimethylphenyl)-6,8-dimethoxy isoquinoline (0.68 g, 1.70 mmol) in 1:1 methanol-ethyl acetate (40 mL) was added Pd—C (10%, 200 mg) and the mixture was hydrogenated for 16 h. After reaction completion the mixture was filtered through Celite. The filtrate was concentrated and dried under vacuum to give 4-(6,8-Dimethoxyisoquinolin-3-yl)-2,6-dimethylphenol (0.51 g, 97%) as a yellow solid. To a solution of 4-(6,8-dimethoxyisoquinolin-3-yl)-2,6-dimethylphenol (25 mg, 0.081 mmol) in methanol/CH2Cl2 (1:1, 6 mL) was added a solution of hydrogen chloride in ether (1.0 M, 1 mL) and the reaction mixture was stirred at room temperature for 15 min. The solvent was removed under reduced pressure. The residue was triturated with ether to give the hydrochloride of 4-(6,8-dimethoxyisoquinolin-3-yl)-2,6-dimethylphenol (28 mg, 99%) as a yellow solid. Selected data: MP 255-256° C. (HCl salt).

reactant | 2-benzyloxy-5-bromo-1,3-dimethylbenzene | 17.03 mmol, 4.96 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C)Br)C | C15H15BrO
reactant | trimethylsilyl acetylene | 18.74 mmol, 1.84 g | C[Si](C)(C)C#C | C5H10Si
solvent | triethyl amine | 70 mL | C(C)N(CC)CC | C6H15N
catalyst | copper (I) iodide | 0.34 mmol, 0.065 g | [Cu]I
product | (4-benzyloxy-3,5-dimethylphenylethynyl)trimethylsilane | 4.0 g, 76% yield | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C)C#C[Si](C)(C)C)C | C20H24OSi
